US20010016635A1
A 1000 mL round bottomed flask was charged with magnesium turnings (1.97 g, 81.0 mmol, Aldrich) and ether (500 mL, Aldrich). Bromo-2-ethylbenzene (14.0 mL, 101 mmol, Aldrich) was added over 30 minutes. The reaction stirred for three hours at room temperature and became dark brown in color. The contents were refluxed for one hour. The contents were cooled to 0° C. and isoamyl-trimethoxysilane (15.9 g, 82.8 mmol, previously prepared by reaction between isoamyl magnesiumbromide and tetramethylortho-silicate) was added over 25 minutes. The reaction was stirred at room temperature overnight (18 hours) during which time a white precipitate formed. The contents were poured into water (500 mL), the layers separated and the product extracted into ether (3×150 mL). The combined organic portions were dried (MgSO4), filtered and the solvent removed via rotary evaporation providing 29.6 g crude material. Distillation under reduced pressure (b.p. 109° C., 1.1 mm Hg) produced (2-ethylphenyl)-3-methylbutyl-dimethoxysilane (7.68 g, 28.8 mmol, 35.6% yield); C15H26SiO2 (Mw=266.45); 1H NMR (CDCl3) δ 7.7 (m, 1H), 7.3 (m, 1H), 7.2 (m, 2H), 3.5 (s, 6H), 2.8 (q, 2H), 1.4 (m, 1H), 1.2(m, 5H), 0.8(m, 8H); 13C NMR (CDCl3) δ 150.5, 135.9, 131.2, 130.3, 128.0, 124.9, 50.3, 31.5, 30.7, 28.6, 21.9, 16.1, 10.9; IR (capillary film) ν 3054, 2974, 1590, 1467, 1370, 1200, 1118, 1023, 936, 874, 803, MS m/z (relative abundance) 266 (0.02), 195 (100), 163 (59.1), 160 (28.8), 133 (25.5), 105 (11.2), 91 (12.3), 59 (18.4).

reactant | magnesium | 81.0 mmol, 1.97 g | [Mg] | Mg
reactant | Bromo-2-ethylbenzene | 101 mmol, 14.0 mL | BrC1=C(C=CC=C1)CC | C8H9Br
reactant | isoamyl-trimethoxysilane | C(CC(C)C)[Si](OC)(OC)OC | C8H20O3Si
reactant | isoamyl magnesiumbromide | C(CC(C)C)[Mg]Br
reactant | tetramethylortho-silicate | CO[Si](OC)(OC)OC | C4H12O4Si
solvent | water | 500 mL | O | H2O
solvent | ether | 500 mL | CCOCC | C4H10O
product | (2-ethylphenyl)-3-methylbutyl-dimethoxysilane | 28.8 mmol, 7.68 g, 35.6% yield | C(C)C1=C(C=CC=C1)[Si](OC)(OC)CCC(C)C | C15H26O2Si
